US07790763B2
a) (3-Hydroxy-azetidin-1-yl)-[5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone
Prepared in analogy to Example 1 from 5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid (Example A3(b)) and azetin-3-ol. The crude material was purified by flash chromatography (ethyl acetate/n-heptane) to yield the title compound as a white crystalline solid (yield 30%). MS (m/e): 368.0 (M+H+, 100%).

reactant | 5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O[C@@H](C(F)(F)F)C | C11H11F3O5S
reactant | azetin-3-ol | N1=CC(C1)O | C3H5NO
product | (3-Hydroxy-azetidin-1-yl)-[5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone | yield 30% | OC1CN(C1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)O[C@@H](C(F)(F)F)C | C14H16F3NO5S
